US07560551B2
Step 2. Preparation of 4-(3-Bromopyridin-2-yloxy)benzenamine
3-Bromo-2-chloropyridine (10.3 g, 53.4 mmol), 4-aminophenol (7.00 g, 64.1 mmol), cesium carbonate (34.8 g, 107 mmol), and DMSO (53 ml, 53.4 mmol) were added into a sealed tube. The tube was capped and placed in a preheated oil bath at 130° C. After 16 h, LC-MS showed mainly product. While the reaction mixture was stirring and cooling in ice-water, water was added to induce the product to precipitate out of the solution. A gray solid was obtained, washed with water, dried under vacuum at rt. MS m/z=265 [M+1]+. Calcd for C11H9BrN2O: 263.99.

reactant | 3-Bromo-2-chloropyridine | 53.4 mmol, 10.3 g | BrC=1C(=NC=CC1)Cl | C5H3BrClN
reactant | 4-aminophenol | 64.1 mmol, 7.00 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | cesium carbonate | 107 mmol, 34.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMSO | 53.4 mmol, 53 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(3-Bromopyridin-2-yloxy)benzenamine | BrC=1C(=NC=CC1)OC1=CC=C(C=C1)N | C11H9BrN2O
